US07902197B2
A solution of 1-cyclohexyl-3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea (0.102 g, 0.215 mmol) in 2 mL of dichloromethane and 2 mL of trifluoroacetic acid was stirred for 1 h, then concentrated, chasing twice with toluene. The residue was dissolved in 2 mL of ethanol and treated with sodium acetate trihydrate (0.293 g, 2.15 mmol). The mixture was stirred for 16 h, then concentrated to a residue. Column chromatography (50→80% EtOAc/hexanes) afforded 0.050 g (68%) of 1-cyclohexyl-3-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea as a white solid.

reactant | 1-cyclohexyl-3-[7-(2,2-dimethyl-propionyl)-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.215 mmol, 0.102 g | C1(CCCCC1)NC(=O)NC=1N=C2C(=NC1)N(C=C2C(C(C)(C)C)=O)COCC[Si](C)(C)C | C24H39N5O3Si
reactant | sodium acetate trihydrate | 2.15 mmol, 0.293 g | O.O.O.C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 1-cyclohexyl-3-[7-(2,2-dimethyl-propionyl)-5H-pyrrolo[2,3-b]pyrazin-2-yl]-urea | 0.050 g, 68% | C1(CCCCC1)NC(=O)NC=1N=C2C(=NC1)NC=C2C(C(C)(C)C)=O | C18H25N5O2
